US05807857
a) 4-Benzyl-1-[(ethoxycarbonyl)acetyl]piperazine
To a cooled (-20° C.) and stirred solution of N-benzylpiperazine (10 g, 56.7 mmol) and triethylamine (8.7 ml, 62.4 mmol) in dichloromethane (200 ml) was added ethyl malonyl chloride (8.5 ml, 66.4 mmol) over 10 minutes, under nitrogen. The mixture was allowed to warm to room temperature and it was stirred for 1 hour before water (100 ml) and diethyl ether (500 ml) were added. The organic phase was decanted off, washed with water (1×70 ml), 10% aqueous sodium bicarbonate (1×75 ml), brine (1×75 ml), then dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel, ethyl acetate--ethanol, 95:5) afforded 9.53 g, (58%) of the title compound as a colourless oil. δ (360 MHz, CDCl3), 1.28 (3H, t, J=7.2Hz), 2.48 (4H, br s), 3.45 (2H, s) 3.47 (2H, br s), 3.56 (2H, br s), 3.68 (2H, br s), 4.19 (2H, q, J=7.2Hz), 7.24-7.36 (5H, m); m/e (ES) 291 (M+1)+.

reactant | N-benzylpiperazine | 56.7 mmol, 10 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 62.4 mmol, 8.7 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl malonyl chloride | 66.4 mmol, 8.5 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 4-Benzyl-1-[(ethoxycarbonyl)acetyl]piperazine | 58% | C(C1=CC=CC=C1)N1CCN(CC1)C(CC(=O)OCC)=O | C16H22N2O3
